US05972961
Sodium borohydride(151.2 mg, 4.0 mmol) was added to a solution of 4-(5-chloro-2-methoxyphenyl)-3-[[(1H-benzotriazol-1-yl)methyl]amino]-6-(trifluoromethyl)quinolin-2(1H)-one (1.0 g, 2.0 mmol) in absolute ethanol and heated to reflux for thirty minutes. The reaction was cooled, acidified with 10% citric acid, extracted with ethyl acetate, dried over magnesium sulfate, and concentrated. The resulting solid was then chromatographed on silica gel affording 4-(5-chloro-2-hydroxyphenyl)-3-(methylamino)-6-(trifluoromethyl)quinolin-2(1H)-one (200 mg, 26.1%).

reactant | Sodium borohydride | 4.0 mmol, 151.2 mg | [BH4-].[Na+]
reactant | 4-(5-chloro-2-methoxyphenyl)-3-[[(1H-benzotriazol-1-yl)methyl]amino]-6-(trifluoromethyl)quinolin-2(1H)-one | 2.0 mmol, 1.0 g | ClC=1C=CC(=C(C1)C1=C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)NCN1N=NC2=C1C=CC=C2)OC | C24H17ClF3N5O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | C(C)O | C2H6O
product | 4-(5-chloro-2-hydroxyphenyl)-3-(methylamino)-6-(trifluoromethyl)quinolin-2(1H)-one | 200 mg, 26.1% | ClC=1C=CC(=C(C1)C1=C(C(NC2=CC=C(C=C12)C(F)(F)F)=O)NC)O | C17H12ClF3N2O2
